US06150352
Step 4.2C 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(pyrimidin-4-ylcarbamoyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a suspension of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-iodo-2-oxo -1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (0.10 g in a mixture of 1 mL N,N-dimethylformamide and 0.04 mL triethylamine) was added 75 mg of 4-aminopyrimidine followed by 0.8 mg dichlorobis(triphenylphosphine)palladium(II) and the flask flushed (5×) with carbon monoxide. The mixture was then heated to 90° C. on an oil bath under a carbon monoxide atmosphere. After 16 hours, the mixture was cooled to room temperature, diluted with ethyl acetate and washed with water and brine. The organic portion was dried over sodium sulfate and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate:hexane, 35:65; then methylene chloride:methanol, 95:5) gave the title compound (70 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-iodo-2-oxo -1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)I)Cl)=O)C1=CC(=CC(=C1)C)C | C29H34ClIN2O4
reactant | 4-aminopyrimidine | 75 mg | NC1=NC=NC=C1 | C4H5N3
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.04 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(pyrimidin-4-ylcarbamoyl)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(NC1=NC=NC=C1)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C34H38ClN5O5
